US08067445B2
Synthesis of [2′-(3-Cyano-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid (Compound 1-99)
[2′-(3-Cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester (0.100 g, 0.19 mmol) in THF (2 mL), MeOH (0.5 mL), and H2O (0.5 mL) was treated with lithium hydroxide (0.030 g, 0.71 mmol), and the reaction was stirred at room temperature until no starting material was seen by analytical LCMS. The crude material was purified by preparative HPLC to give the title compound.

reactant | [2′-(3-Cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | 0.19 mmol, 0.100 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(OC1=CC=CC=C1)=NC#N)CC)=O | C29H28F3N3O4
reactant | H2O | 0.5 mL | O | H2O
reactant | lithium hydroxide | 0.71 mmol, 0.030 g | [OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
product | [2′-(3-Cyano-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | C(#N)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O)=O | C21H20F3N3O4
